US05830873
To a solution of 2'-(β-D-glucopyranosyloxy)-6'-hydroxy-3-(5-benzo[b]furanyl)propiophenone (889 mg) and ethoxyacetic acid (250 mg) in pyridine (25 ml) is added N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride (1527 mg) under ice-cooling, and the mixture is stirred at room temperature for 19 hours. To the reaction solution are added a saturated aqueous sodium hydrogen carbonate solution and chloroform, and the mixture is stirred. The organic layer is collected, washed with water, dried, and evaporated to remove the solvent. The residue is dissolved in a mixture of methanol (10 ml) and tetrahydrofuran (10 ml), and thereto is added triethylamine (202 mg). The mixture is stirred at 50° C. for 40 minutes, and evaporated to remove the solvent. The residue is dissolved in ethyl acetate, and the mixture is washed with water, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give 2'-(6-O-ethoxyacetyl-β-D-glucopyranosyloxy)-6'-hydroxy-3-(5-benzo[b]furanyl)propiophenone (377 mg).

reactant | 2'-(β-D-glucopyranosyloxy)-6'-hydroxy-3-(5-benzo[b]furanyl)propiophenone | 889 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=C(C(=CC=C1)O)C(CCC1=CC2=C(OC=C2)C=C1)=O | C23H24O9
reactant | ethoxyacetic acid | 250 mg | C(C)OCC(=O)O | C4H8O3
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1527 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2'-(6-O-ethoxyacetyl-β-D-glucopyranosyloxy)-6'-hydroxy-3-(5-benzo[b]furanyl)propiophenone | 377 mg | C(C)OCC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=C(C(=CC=C1)O)C(CCC1=CC2=C(OC=C2)C=C1)=O)O)O)O | C27H30O11
